US07312330B2
A. 4-Chloro-7-(3-(trifluoromethyl)pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine
A mixture of 5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4)3H)-one (1.5 g, 0.0099 mol), 2-chloro-3-(trifluoromethyl)pyridine (2.7 g, 0.015 mol) and N,N-diisopropylethylamine (2.6 mL, 0.015 mol) in N-methylpyrrolidinone (9 mL, 0.09 mol) was heated in a sealed vessel via microwave at 150° C. for 2 hours. After cooling to rt, the reaction mixture was poured into water (30 mL) and extracted with ethyl acetate (4×30 mL). The combined extracts were washed with brine and dried over magnesium sulfate and concentrated to dryness to leave a yellow solid which was taken on without futher purification. The solid (1.00 g, 0.00338 mol), Phosphoryl chloride (1.19 mL, 0.0127 mol) and N,N-Dimethylaniline (0.202 mL, 0.00159 mol) in 1,2-Dichloroethane (20 mL) was heated to reflux for 3 hours. The mixture was concentrated under reduced pressure to leave a black oil. Residue was taken up in dichloromethane (50 mL) and poured over crushed ice. Mixture slowly neutralized by addition of solid sodium bicarbonate. The layers were separated and organic layer dried over magnesium sulfate and concentrated to leave a dark brown oil Purified by flash chromatography over silica gel (ethyl acetate/hexane gradient 0 to 100%) to yield the desired product as a yellow solid (0.716 g).

reactant | 2-chloro-3-(trifluoromethyl)pyridine | 0.015 mol, 2.7 g | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | N,N-diisopropylethylamine | 0.015 mol, 2.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-methylpyrrolidinone | 0.09 mol, 9 mL | CN1C(CCC1)=O | C5H9NO
reactant | Phosphoryl chloride | 0.0127 mol, 1.19 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-Dimethylaniline | 0.00159 mol, 0.202 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 1,2-Dichloroethane | 20 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 30 mL | O | H2O
product | 4-Chloro-7-(3-(trifluoromethyl)pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 0.716 g | ClC=1C2=C(N=CN1)CN(CC2)C2=NC=CC=C2C(F)(F)F | C13H10ClF3N4
